### PR TITLE
golf: simplify some of the longest files

### PR DESCRIPTION
**Pull request by b-mehta**

### CODE REVIEW

File: SpherePacking/ModularForms/JacobiTheta.lean [hunk 1]
```diff
@@ -112,142 +109,83 @@ lemma summable_Θ₂_term (τ : ℍ) : Summable (fun n : ℤ => Θ₂_term n τ)
...
-        simp [hτ, mul_assoc, mul_left_comm, mul_comm, I_mul_I_mul]
-      rw [harg]
-      exact (Complex.exp_ofReal_im (-(Real.pi * ((n : ℝ) ^ 2) * t)))
-    simp [Θ₄_term, Complex.mul_im, hsign_im, hexp_im]
-  rw [Θ₄, im_tsum hsum]
-  simp [hterm_im]
+    have : Θ₄_term n τ = ↑((-1 : ℝ) ^ n * Real.exp (-(Real.pi * ((n : ℝ) ^ 2) * t))) := by
+      simp only [Θ₄_term, Complex.ofReal_mul, Complex.ofReal_zpow, Complex.ofReal_exp,
+        Complex.ofReal_neg]; congr 2
+      push_cast; linear_combination ↑π * ↑n ^ 2 * ↑t * I_sq
```
Comment (b-mehta) [inline SpherePacking/ModularForms/JacobiTheta.lean]: This is an instance of banned `;`, please fix this

File: SpherePacking/ModularForms/JacobiTheta.lean [hunk 2]
```diff
@@ -112,142 +109,83 @@ lemma summable_Θ₂_term (τ : ℍ) : Summable (fun n : ℤ => Θ₂_term n τ)
...
   simp only [Function.resToImagAxis, ResToImagAxis, ht, ↓reduceDIte]
   set τ : ℍ := ⟨Complex.I * t, by simp [ht]⟩
   have hsum : Summable (fun n : ℤ => Θ₄_term n τ) := by
-    have hs : Summable (fun n : ℤ => jacobiTheta₂_term n (1 / 2 : ℂ) τ) :=
-      (summable_jacobiTheta₂_term_iff (z := (1 / 2 : ℂ)) (τ := (τ : ℂ))).2
-        (by simpa using τ.im_pos)
-    simpa [Θ₄_term_as_jacobiTheta₂_term (τ := τ)] using hs
+    simpa [Θ₄_term_as_jacobiTheta₂_term (τ := τ)] using
+      ((summable_jacobiTheta₂_term_iff (z := (1 / 2 : ℂ)) (τ := (τ : ℂ))).2
+        (by simpa using τ.im_pos))
```
Comment (b-mehta) [inline SpherePacking/ModularForms/JacobiTheta.lean]: Usage of `simpa` inside a `simpa` is bad style.

File: SpherePacking/ModularForms/JacobiTheta.lean [hunk 3]
```diff
@@ -112,142 +109,83 @@ lemma summable_Θ₂_term (τ : ℍ) : Summable (fun n : ℤ => Θ₂_term n τ)
...
-          have h :
-              ((Θ₂ τ).re : ℂ) ^ 4 = (↑((Θ₂ τ).re ^ 4) : ℂ) :=
-            (Complex.ofReal_pow (Θ₂ τ).re 4).symm
-          rw [h]
-          exact Complex.ofReal_re ((Θ₂ τ).re ^ 4)
-    simpa [H₂] using hre'
-  simpa [hre] using pow_pos hΘpos 4
+    simpa [Function.resToImagAxis, ResToImagAxis, ht, τ] using Θ₂_imag_axis_pos.2 t ht
+  have hΘeq : Θ₂ τ = ((Θ₂ τ).re : ℂ) := Complex.ext (by simp) (by simpa using hΘreal)
+  rw [H₂, hΘeq, ← Complex.ofReal_pow, Complex.ofReal_re]; positivity
```
Comment (b-mehta) [inline SpherePacking/ModularForms/JacobiTheta.lean]: This is a bad `;` too.

File: SpherePacking/ModularForms/JacobiTheta.lean [hunk 4]
```diff
@@ -270,26 +208,23 @@ public lemma H₄_negI_action : (H₄ ∣[(2:ℤ)] negI.1) = H₄ := modular_sla
...
   _ = cexp (π * I / 4) * ∑' (n : ℤ), cexp (π * I * (n ^ 2 + n) + π * I * (n + 1 / 2) ^ 2 * x) := by
     rw [tsum_mul_left]
   _ = _ := by
     simp_rw [Θ₂, Θ₂_term]
     congr 1
     apply tsum_congr fun b ↦ ?_
-    have : Even (b ^ 2 + b) := by
-      convert Int.even_mul_succ_self b using 1
-      ring_nf
+    have : Even (b ^ 2 + b) := by convert Int.even_mul_succ_self b using 1; ring_nf
```
Comment (b-mehta) [inline SpherePacking/ModularForms/JacobiTheta.lean]: Try using `grind` or `simp [parity_simps]` here

File: SpherePacking/ModularForms/JacobiTheta.lean [hunk 5]
```diff
@@ -349,48 +280,34 @@ public lemma H₂_S_action : (H₂ ∣[(2 : ℤ)] S) = -H₄ := by
...
-      inv_eq_zero]
+    simp only [inv_neg, mul_neg, mul_pow, ← Complex.exp_nat_mul, Nat.cast_ofNat, Int.reduceNeg,
+      zpow_neg, neg_mul, mul_eq_mul_right_iff, inv_eq_zero]
     rw [mul_comm 4, div_mul_cancel₀ _ (by norm_num)]
-    left
-    congr 3
-    · rw [← div_eq_mul_inv, neg_div]
-    · rw [← one_div, neg_div, div_div, mul_comm, neg_div]
-    · rw [← one_div, neg_div]
+    left; congr 3 <;> simp [div_eq_mul_inv, mul_comm]
```
Comment (b-mehta) [inline SpherePacking/ModularForms/JacobiTheta.lean]: this is another banned `;`

**Review by b-mehta — COMMENTED** [review]
I have left some preliminary comments. Please generalise them.

**Comment by dwrensha** [comment]
These look like some good improvements!

Please merge the latest `gauss2` and resolve the conflicts. Please also fix the new linter warnings.

**Comment by dwrensha** [comment]
Also, @b-mehta: to avoid conflicts, please refrain from working on new golfs until after we upgrade the `gauss2` branch to Lean v4.29.0, which we intend to do soon.

**Comment by b-mehta** [comment]
I've merged. A local build said there were no new linter warnings, but I'll wait for CI to agree. Will hold off on further golf PRs.

File: SpherePacking/MagicFunction/a/SpecialValues.lean [hunk 6]
```diff
@@ -326,32 +245,30 @@ lemma f0_vertical_diff (y : ℝ) (hy : 0 < y) :
...
+    (m : ℝ) (hm : 1 ≤ m) :
+    (∫ x : ℝ in (0 : ℝ)..1, g (x + (1 : ℝ) * Complex.I)) -
+        (∫ x : ℝ in (0 : ℝ)..1, g (x + m * Complex.I)) +
+        Complex.I • (∫ y : ℝ in (1 : ℝ)..m, g ((1 : ℝ) + y * Complex.I)) -
+          Complex.I • (∫ y : ℝ in (1 : ℝ)..m, g ((0 : ℝ) + y * Complex.I)) = 0 := by
+  have hC : ContinuousOn g (Set.uIcc (0 : ℝ) 1 ×ℂ Set.uIcc (1 : ℝ) m) := by
+    refine hg.continuousOn.mono ?_
+    intro z hz
+    exact lt_of_lt_of_le (by norm_num)
+      (by simpa [Set.uIcc_of_le hm] using (mem_reProdIm.1 hz).2 : z.im ∈ Set.Icc (1 : ℝ) m).1
```
Comment (dwrensha) [inline SpherePacking/MagicFunction/a/SpecialValues.lean]:
```suggestion
    refine lt_of_lt_of_le zero_lt_one (?_ : z.im ∈ Set.Icc 1 m).1
    simpa [Set.uIcc_of_le hm] using (mem_reProdIm.1 hz).2
```

File: SpherePacking/MagicFunction/a/SpecialValues.lean [hunk 7]
```diff
@@ -268,53 +211,29 @@ lemma f0_norm_bound_on_strip :
...
+        ≤ |((2 : ℂ) * z - 1).re| + |((2 : ℂ) * z - 1).im| := Complex.norm_le_abs_re_add_abs_im _
       _ = |2 * z.re - 1| + |2 * z.im| := by simp
       _ ≤ 1 + |2 * z.im| := add_le_add hRe le_rfl
       _ = 2 * z.im + 1 := by simp [hIm, add_comm]
-  calc
-    ‖f0 z‖ = ‖φ₀'' z * ((2 : ℂ) * z - 1)‖ := by simp [f0]
-    _ = ‖φ₀'' z‖ * ‖(2 : ℂ) * z - 1‖ := by simp
-    _ ≤ (C₀ * Real.exp (-2 * π * z.im)) * (2 * z.im + 1) := by
-          gcongr
+  calc ‖f0 z‖ = ‖φ₀'' z‖ * ‖(2 : ℂ) * z - 1‖ := by simp [f0, norm_mul]
```
Comment (dwrensha) [inline SpherePacking/MagicFunction/a/SpecialValues.lean]:
```suggestion
  calc ‖f0 z‖ = ‖φ₀'' z‖ * ‖(2 : ℂ) * z - 1‖ := by simp [f0]
```

fixes the warning
```
warning: SpherePacking/MagicFunction/a/SpecialValues.lean:228:61: This simp argument is unused:
  norm_mul

Hint: Omit it from the simp argument list.
  simp [f0,̵ ̵n̵o̵r̵m̵_̵m̵u̵l̵]
```

File: SpherePacking/MagicFunction/a/SpecialValues.lean [hunk 8]
```diff
@@ -268,53 +211,29 @@ lemma f0_norm_bound_on_strip :
...
-    simp [zH, add_comm]
-  calc
-    φ₀'' (z + 1) = φ₀ (⟨z + 1, hz1⟩ : ℍ) := by
-      simpa using (φ₀''_def (z := z + 1) hz1)
-    _ = φ₀ ((1 : ℝ) +ᵥ zH) := by simp [hvadd]
-    _ = φ₀ zH := φ₀_periodic zH
-    _ = φ₀'' z := by
-      simpa [zH] using (φ₀''_def (z := z) hz).symm
+public lemma φ₀''_add_one (z : ℂ) (hz : 0 < z.im) : φ₀'' (z + 1) = φ₀'' z :=
+  periodic_of_UHP 1 (fun z hz => φ₀''_def hz) φ₀_periodic z hz
```
Comment (dwrensha) [inline SpherePacking/MagicFunction/a/SpecialValues.lean]:
```suggestion
  periodic_of_UHP 1 (fun _ hz => φ₀''_def hz) φ₀_periodic z hz
```
fixes the warning
```
warning: SpherePacking/MagicFunction/a/SpecialValues.lean:236:25: unused variable `z`
```

File: SpherePacking/MagicFunction/a/SpecialValues.lean (hunk 7 above)
Comment (b-mehta) [reply SpherePacking/MagicFunction/a/SpecialValues.lean]: thanks - fixing these already!

File: SpherePacking/MagicFunction/a/SpecialValues.lean (hunk 8 above)
Comment (b-mehta) [reply SpherePacking/MagicFunction/a/SpecialValues.lean]: thanks - fixing these already!

File: SpherePacking/MagicFunction/a/SpecialValues.lean (hunk 6 above)
Comment (b-mehta) [reply SpherePacking/MagicFunction/a/SpecialValues.lean]: argh, I thought I'd got rid of all the instances of this pattern, thanks for catching.

File: SpherePacking/MagicFunction/g/CohnElkies/AnotherIntegral/A/APrimeExtension.lean [hunk 9]
```diff
@@ -114,42 +112,31 @@ We rewrite each `Iᵢ'C` (`i = 1, ..., 5`) into the form
...
-  by_cases ht : t = 0
-  · subst ht
-    simp
-  · have ht' : (t : ℂ) ≠ 0 := by exact_mod_cast ht
-    field_simp [ht', Complex.I_ne_zero]
+  rcases eq_or_ne t 0 with rfl | ht
+  · simp
+  · have : (t : ℂ) ≠ 0 := by exact_mod_cast ht
+    field_simp [this, Complex.I_ne_zero]
     simp [Complex.I_sq]
```
Comment (dwrensha) [inline SpherePacking/MagicFunction/g/CohnElkies/AnotherIntegral/A/APrimeExtension.lean]:
```suggestion
  simp [field]
```

File: SpherePacking/MagicFunction/g/CohnElkies/AnotherIntegral/A/APrimeExtension.lean [hunk 10]
```diff
@@ -730,207 +475,90 @@ lemma I₆'C_differentiableAt (u0 : ℂ) (hu0 : u0 ∈ rightHalfPlane) :
...
+    (hs := Metric.ball_mem_nhds u0 hε) (hF_meas := .of_forall hF_meas) (hF_int := hF_int)
+    (hF'_meas := hF'_meas) (h_bound := hbound) (bound_integrable := hbound_int)
+    (h_diff := hdiff)).2
+  have hfun : (fun z : ℂ => ∫ t, I₆IntegrandC z t ∂μ) =
+      fun z => ∫ t in Set.Ici (1 : ℝ), I₆IntegrandC z t := funext fun z => by simp [μ]
+  rw [hfun] at hdiffCore
+  have hEqfun : I₆'C = fun z : ℂ => 2 * ∫ t in Set.Ici (1 : ℝ), I₆IntegrandC z t :=
+    funext fun z => by simpa using I₆'C_eq_integrandC z
+  exact (by simpa [hEqfun, mul_assoc] using
+    hdiffCore.const_mul (2 : ℂ) : HasDerivAt I₆'C _ u0).differentiableAt
```
Comment (dwrensha) [inline SpherePacking/MagicFunction/g/CohnElkies/AnotherIntegral/A/APrimeExtension.lean]:
```suggestion
  rw [funext I₆'C_eq_integrandC]
  exact hdiffCore.differentiableAt.const_mul 2
```

File: SpherePacking/MagicFunction/g/CohnElkies/AnotherIntegral/A/APrimeExtension.lean [hunk 11]
```diff
@@ -730,207 +475,90 @@ lemma I₆'C_differentiableAt (u0 : ℂ) (hu0 : u0 ∈ rightHalfPlane) :
...
     AnalyticOnNhd ℂ aPrimeC rightHalfPlane := by
-  have hdiff : DifferentiableOn ℂ aPrimeC rightHalfPlane := by
-    simpa [aPrimeC] using
-      (((((I₁'C_differentiableOn.add I₂'C_differentiableOn).add I₃'C_differentiableOn).add
-                I₄'C_differentiableOn).add I₅'C_differentiableOn).add I₆'C_differentiableOn)
-  exact hdiff.analyticOnNhd rightHalfPlane_isOpen
+  exact (by simpa [aPrimeC] using
+    (((((I₁'C_differentiableOn.add I₂'C_differentiableOn).add I₃'C_differentiableOn).add
+              I₄'C_differentiableOn).add I₅'C_differentiableOn).add I₆'C_differentiableOn) :
+    DifferentiableOn ℂ aPrimeC rightHalfPlane).analyticOnNhd rightHalfPlane_isOpen
```
Comment (dwrensha) [inline SpherePacking/MagicFunction/g/CohnElkies/AnotherIntegral/A/APrimeExtension.lean]:
```suggestion
  suffices H : DifferentiableOn ℂ aPrimeC rightHalfPlane from H.analyticOnNhd rightHalfPlane_isOpen
  simpa using
    ((((I₁'C_differentiableOn.add I₂'C_differentiableOn).add I₃'C_differentiableOn).add
      I₄'C_differentiableOn).add I₅'C_differentiableOn).add I₆'C_differentiableOn
```

File: SpherePacking/ModularForms/JacobiTheta.lean [hunk 12]
```diff
@@ -634,23 +522,14 @@ public theorem isBoundedAtImInfty_H₂ : IsBoundedAtImInfty H₂ := by
...
-    exact Real.exp_monotone h'
-  have hnorm : ‖Θ₂ z‖ ≤ ∑' n : ℤ, ‖Θ₂_term n z‖ := by
-    simpa [Θ₂] using (norm_tsum_le_tsum_norm hsum_norm)
-  exact hnorm.trans (Summable.tsum_le_tsum (fun n ↦ hterm_le n) hsum_norm hsum_exp)
+    apply Real.exp_monotone
+    nlinarith [mul_le_mul_of_nonpos_left hz (neg_nonpos.mpr (by positivity :
+      0 ≤ π * ((↑n + 2⁻¹) ^ 2)))]
+  exact ((by simpa [Θ₂] using norm_tsum_le_tsum_norm (summable_Θ₂_term z).norm :
+    ‖Θ₂ z‖ ≤ _)).trans (Summable.tsum_le_tsum hterm_le (summable_Θ₂_term z).norm
+      summable_exp_neg_pi_mul_int_add_half_sq)
```
Comment (dwrensha) [inline SpherePacking/ModularForms/JacobiTheta.lean]:
```suggestion
  refine ((?_ : ‖Θ₂ z‖ ≤ _)).trans (Summable.tsum_le_tsum hterm_le (summable_Θ₂_term z).norm
                                    summable_exp_neg_pi_mul_int_add_half_sq)
  simpa [Θ₂] using norm_tsum_le_tsum_norm (summable_Θ₂_term z).norm
```

**Review by dwrensha — APPROVED** [review]

**Comment by b-mehta** [comment]
Should we merge, @dwrensha?
